US04271167
3-(4-Fluorophenyl)-3-oxo-N,N,N-trimethylpropan-1-aminium iodide can be prepared in accordance with the following procedure: Dimethylamine hydrochloride (32.6 g), a 12 N aqueous solution of hydrochloric acid (1 cc) and polyoxymethylene (12.0 g) are added to a solution of 1-(4-fluorophenyl)-ethanone (56.0 g) in ethanol (200 cc). After heating under reflux for 3 hours, more polyoxymethylene (6.0 g) is added and the mixture is heated under reflux for a further 16 hours. The reaction mixture is cooled to 20° C. and diethyl ether (300 cc) is then added. The solid which precipitates is filtered off, washed 3 times with diethyl ether (300 cc in total) and dried under reduced pressure (20 mm Hg) at 25° C. for 16 hours. 2-Dimethylamino-1-(4-fluorophenyl)-ethan-1-one hydrochloride (65.0 g), which melts at 180° C., is thus obtained and this is dissolved in distilled water (60 cc). Diethyl ether (1,100 cc) and a 10 N aqueous solution of sodium hydroxide (30 cc) are added to the solution thus obtained, the mixture is stirred for 2 minutes and the organic phase is decanted. The aqueous phase is re-extracted twice with diethyl ether (300 cc in total). The ether extracts are combined, dried over sodium sulphate and evaporated under reduced pressure (20 mm Hg) at 40° C. Methyl iodide (42.5 g) is added, at between 20° and a maximum of 50° C., to a solution of the residual oil (52.2 g) in anhydrous acetonitrile (250 cc). The reaction is allowed to proceed for 2 hours at 20° C. and diethyl ether (300 cc) is then added. The solid which precipitates is filtered off, washed 3 times with diethyl ether (300 cc in total), and dried under reduced pressure (20 mm Hg) at 25° C. for 16 hours. 3-(4-Fluorophenyl)-3-oxo-N,N,N-trimethylpropan-1-aminium iodide (65.5 g), which melts at 230° C., is thus obtained.

reactant | 3-(4-Fluorophenyl)-3-oxo-N,N,N-trimethylpropan-1-aminium iodide | [I-].FC1=CC=C(C=C1)C(CC[N+](C)(C)C)=O
reactant | Dimethylamine hydrochloride | 32.6 g | Cl.CNC
reactant | hydrochloric acid | 1 cc | Cl | ClH
reactant | polyoxymethylene | 12.0 g | O(C[*:2])[*:1]
reactant | 1-(4-fluorophenyl)-ethanone | 56.0 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | polyoxymethylene | 6.0 g | O(C[*:2])[*:1]
solvent | ethanol | 200 cc | C(C)O | C2H6O
solvent | diethyl ether | 300 cc | C(C)OCC | C4H10O
product | 2-Dimethylamino-1-(4-fluorophenyl)-ethan-1-one hydrochloride | 65.0 g | Cl.CN(CC(=O)C1=CC=C(C=C1)F)C | InChI=1S/C10H12FNO.ClH/c1-12(2)7-10(13)8-3-5-9(11)6-4-8;/h3-6H,7H2,1-2H3;1H
